US04587344
N-methyl-N'-[2-(2-dimethylaminomethylthiazol-4-ylmethylthio)ethyl]-2-nitro-1,1-ethenediamine
Nine g. of N-methyl-S-methyl-N'-[2-(2-dimethylaminomethylthiazol-4-ylmethylthio)ethyl]isothiourea was stirred in 45 ml. of nitromethane and 45 ml. of 2-butanol in a 95° bath for 20 hours. The reaction mixture was then evaporated to dryness on a warm water bath under vacuum, and the residue was dissolved in 50 ml. of ethyl acetate and stirred at ambient temperature. A solid crystallized out, and the solution was cooled in an ice bath for 30 minutes. The mixture was then filtered and the solids were washed with cold ethyl acetate and dried in air to obtain 6.5 g. of the desired product in crude form, which was found to be 88.6% pure, with 6 impurities, by high performance liquid chromatography analysis (HPLC). Six g. of the crude product was dissolved in 50 ml. of warm denatured ethanol, and the solution was stirred while it cooled to ambient temperature. The crystals were collected by filtration, washed with denatured ethanol and air dried overnight to obtain 4.61 g. of purified nizatidine, m.p. 134-136°, found to be 96.7% pure by HPLC.

reactant | N-methyl-S-methyl-N'-[2-(2-dimethylaminomethylthiazol-4-ylmethylthio)ethyl]isothiourea | CNC(SC)=NCCSCC=1N=C(SC1)CN(C)C | C12H22N4S3
reactant | nitromethane | [N+](=O)([O-])C | CH3NO2
solvent | 2-butanol | CC(CC)O | C4H10O
product | N-methyl-N'-[2-(2-dimethylaminomethylthiazol-4-ylmethylthio)ethyl]-2-nitro-1,1-ethenediamine | CNC(=C[N+](=O)[O-])NCCSCC=1N=C(SC1)CN(C)C | C12H21N5O2S2
